US04559177
To a dimethylformamide solution (50 ml) of 6-(20-hydroxyeicosanyl)-2,3-dimethoxy-5-methylphenol (4.0 g) is added bis(salicylidene)ethylenediiminocobalt(II) (40 mg), and the mixture is stirred in oxygen streams at atmospheric temperature and pressure for 72 hours. The product is isolated as in Example 7 and recrystallized from ether. The above procedure yields 6-(20-hydroxyeicosyl)-2,3-dimethoxy-5-methyl-1,4-benzoquinone (3.28 g) as yellow needles melting at 85° C.

reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | 6-(20-hydroxyeicosanyl)-2,3-dimethoxy-5-methylphenol | 4.0 g | OCCCCCCCCCCCCCCCCCCCCC1=C(C=C(C(=C1O)OC)OC)C | C29H52O4
solvent | oxygen | O=O | O2
catalyst | salcomine | 40 mg | C1=CC=C(C(=C1)C=NCCN=CC2=CC=CC=C2[O-])[O-].[Co+2]
product | 6-(20-hydroxyeicosyl)-2,3-dimethoxy-5-methyl-1,4-benzoquinone | 3.28 g | OCCCCCCCCCCCCCCCCCCCCC1=C(C(C(=C(C1=O)OC)OC)=O)C | C29H50O5
